US07399774B2
Combine 7-methoxy-2-tetralone (5.00 g, 28.3 mmol), thiophenol (3.39 g, 30.8 mmol), K2CO3 (213 mg, 1.54 mmol), and NMP (15 ml) in a round bottom flask equipped with nitrogen inlet. Heat at 180° C. for six hours and then stir at ambient temperature overnight. Treat reaction mixture with 1N aq. NaOH (20 ml) and water (20 ml) before extracting with Et2O. Adjust the alkaline mixture to pH 4 with 1N aq. HCl and extract with Et2O (3×). Dry (MgSO4) the ethereal layer and concentrate to a yellow solid. Purify the crude material on silica gel, eluting with 5% EtOAc/DCM, to obtain 7-hydroxy-2-tetralone (1.88 g) as a light red solid. 1HNMR (CDCl3): 7.09 (d, 1H), 6.69 (d, 1H), 6.62 (s, 1H), 4.86 (s, 1H), 3.53 (s, 2H), 2.99 (t, 2H), 2.54 (t, 2H).

reactant | 7-methoxy-2-tetralone | 28.3 mmol, 5.00 g | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
reactant | thiophenol | 30.8 mmol, 3.39 g | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 1.54 mmol, 213 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 1N, 20 ml | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | NMP | 15 ml | CN1CCCC1=O | C5H9NO
product | 7-hydroxy-2-tetralone | 1.88 g | OC1=CC=C2CCC(CC2=C1)=O | C10H10O2
